US06867221B2
Synthesis of 1-(tert-butoxycarbonyl)-4-[N-[2-(4-ethoxyphenyl)pyridin-4-yl]methyl-N-(4-methoxyphenyl)amino]piperidine
4-(p-Anisidino)-1-(tert-butoxycarbonyl)piperidine (306 mg) and 4-chloromethyl-2-(4-ethoxyphenyl)pyridine (248 mg) were condensed in the same manner as described in Example 9 to give the title compound.

reactant | 4-(p-Anisidino)-1-(tert-butoxycarbonyl)piperidine | 306 mg | COC1=CC=C(C=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C17H26N2O3
reactant | 4-chloromethyl-2-(4-ethoxyphenyl)pyridine | 248 mg | ClCC1=CC(=NC=C1)C1=CC=C(C=C1)OCC | C14H14ClNO
product | 1-(tert-butoxycarbonyl)-4-[N-[2-(4-ethoxyphenyl)pyridin-4-yl]methyl-N-(4-methoxyphenyl)amino]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1=CC=C(C=C1)OC)CC1=CC(=NC=C1)C1=CC=C(C=C1)OCC | C31H39N3O4
